US07678818B2
Preparation of 4-pentafluoroethyl-benzoic acid
A mixture of 4-pentafluoroethyl-benzonitrile (2.98 g, 13.5 mmol) and potassium hydroxide (3.03 g, 54.0 mmol) in water (40 mL) and ethanol (20 mL) was heated at reflux for 16 h. After cooling, the solution was partitioned between 1 M aq. hydrochloric acid solution and ethyl acetate. The organic layer was washed with brine, dried (MgSO4), and evaporated. Chromatography (SiO2, heptane-ethyl acetate gradient) produced the title compound (2.76 g, 85%). White solid, MS (ISP) 238.9 (M−H)−.

reactant | 4-pentafluoroethyl-benzonitrile | 13.5 mmol, 2.98 g | FC(C(F)(F)F)(C1=CC=C(C#N)C=C1)F | C9H4F5N
reactant | potassium hydroxide | 54.0 mmol, 3.03 g | [OH-].[K+]
reactant | water | 40 mL | O | H2O
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 4-pentafluoroethyl-benzoic acid | 2.76 g, 85% | FC(C(F)(F)F)(C1=CC=C(C(=O)O)C=C1)F | C9H5F5O2
